US07557114B2
(b) 5-Methyl-6-(tetrahydro-pyran-4-yl)-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester
Prepared in analogy to Example A49(b) from 5-(3,6-dihydro-2H-pyran-4-yl)-6-methyl-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester and ammonium formate. Yellow solid. MS (m/e): 262.1 ([M+H−Me2C═CH2]+, 100%).

reactant | 5-(3,6-dihydro-2H-pyran-4-yl)-6-methyl-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=CC(=C(C=C2C1)C=1CCOCC1)C | C19H25NO3
reactant | ammonium formate | C(=O)[O-].[NH4+]
product | 5-Methyl-6-(tetrahydro-pyran-4-yl)-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=CC(=C(C=C2C1)C)C1CCOCC1 | C19H27NO3
